US06492383B1
(2-Methyl-1H-indol-5-yl)-(2-phenyl-thieno[3,2-b]pyridin-7-yl)-amine
The title compound was prepared from phenyl boronic acid and (2-bromothieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine by the procedure analogous to example 2 above. 1H NMR (400 MHz, CD3OD) δ8.02 (d, 1H), 7.67 (d, 2H), 7.54 (s, 1H), 7.30 (m, 5H), 6.94 (d, 1H), 6.54 (d, 1H), 6.09 (s, 1H), 2.39 (s, 3H); RP18-HPLC RT: 6.21 minutes; API MS 356 (M+1).

reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | (2-bromothieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C16H12BrN3S
product | (2-Methyl-1H-indol-5-yl)-(2-phenyl-thieno[3,2-b]pyridin-7-yl)-amine | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C2=CC=CC=C2 | C22H17N3S
